US08669234B2
[1-(2-{5-[6-(4-{2-[4-Cyano-1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester
Title compound was prepared according to the method employed to prepare [1-(2-{5-[6-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (Example AZ), substituting (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-cyano-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester for [2-methyl-1-(2-{5-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester. 1H-NMR: 400 MHz, (DMSO-d6) δ 11.98 (s, 1H), 11.82 (s, 1H), 8.22 (m, 2H), 7.92-7.77 (m, 6H), 7.62 (m, 2H), 7.44 (d, J=7.6 Hz, 1H), 7.31 (d, J=8.0, 1H), 5.24 (t, J=5.2 Hz, 1H), 5.12 (d, J=4.0, 1H), 4.22-4.19 (m, 1H), 4.09-4.0 (m, 4H), 3.89-3.83 (m, 4H), 3.56 (d, J=5.6 Hz, 6H), 2.17 (brs, 2H), 2.06-1.90 (m, 4H), 0.95-0.84 (m, 14H); MS (ESI) m/z 814 [M+H]+.

reactant | [1-(2-{5-[6-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O | C44H52N8O6
reactant | [2-methyl-1-(2-{5-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)B1OC(C(O1)(C)C)(C)C)=O | C30H39BN4O5
product | [1-(2-{5-[6-(4-{2-[4-Cyano-1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CC(C1)C#N)C(C(C(C)C)NC(=O)OC)=O)=O | C45H51N9O6
